US05817693
a) Ethyl(1RS)-1-Hydroxy-1-(3,4-methylenedioxyphenyl)-3-phenylindene-2-carboxylate
To a solution of ethyl 1-oxo-3-phenylindene-2-carboxylate (1.0 g, 3.6 mmol) in THF (35 ml) under an argon atmosphere at 0° C. was added a solution of freshly prepared 3,4-methylenedioxyphenyl magnesium bromide (5.4 mmol). After stirring for 30 min, the mixture was partitioned between 3M HCl and EtOAc. The organic extract was washed successively with H2O, 5% aqueous NaHCO3 and saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with 10% EtOAc/hexanes to afford the title compound (1.03 g, 72%).

reactant | ethyl 1-oxo-3-phenylindene-2-carboxylate | 3.6 mmol, 1.0 g | O=C1C(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H14O3
reactant | 3,4-methylenedioxyphenyl magnesium bromide | 5.4 mmol | C1OC=2C=C(C=CC2O1)[Mg]Br
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | Ethyl(1RS)-1-Hydroxy-1-(3,4-methylenedioxyphenyl)-3-phenylindene-2-carboxylate | 1.03 g, 72% | OC1(C(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C25H20O5
